US04596870
1-(3-Trifluoromethylphenoxy)methyl-5-chloropyrimidin-2-one
A solution of 1-chloromethoxy-3-trifluoromethylbenzene [see Preparation 4) (7 mmol) in dichloromethane (10 ml) was added to a solution of 5-chloropyrimidin-2-one hydrochloride (70 mmol) in dichloromethane (30 ml) and the mixture stirred at room temperature for 18 h. The solvent was then distilled off, the mixture triturated with water, the residual solid extracted with chloroform and the dried (MgSO4) chloroform solution evaporated; yield 1.88 g (94%). The product was a mixture of the N- and O-isomer in the ratio 3:1. The isomers were separated by the difference in their solutilities in tetrachloromethane, the O-isomer being the more solunble. The title compound, the N-isomer was isolated in a non-crystalline form. 1H NMR (CDCl3) δ 5.82 (CH2), 7.1-7.3 (Ph), 7.85 (H-4, J4,6 3 Hz), 8.45 (H-6).

reactant | 1-chloromethoxy-3-trifluoromethylbenzene | ClCOC1=CC(=CC=C1)C(F)(F)F | C8H6ClF3O
reactant | 5-chloropyrimidin-2-one hydrochloride | 70 mmol | Cl.ClC=1C=NC(NC1)=O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 1-(3-Trifluoromethylphenoxy)methyl-5-chloropyrimidin-2-one | FC(C=1C=C(OCN2C(N=CC(=C2)Cl)=O)C=CC1)(F)F | C12H8ClF3N2O2
